US06884868B1
A mixture of 1-fluoro-4-nitrobenzene (2.71 ml), 1,2,3,6-tetrahydro-4-phenylpyridine hydrochloride (5 g) and potassium carbonate (8.83 g) in dimethylsulfoxide (50 ml) was stirred for 1 hour at 100° C. The reaction mixture was pulverized with water. The precipitate was collected by filtration, and dried under reduced pressure to give 4-(4-phenyl-3,6-dihydro-2H-pyridin-1-yl)nitrobenzene.

reactant | 1-fluoro-4-nitrobenzene | 2.71 ml | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1,2,3,6-tetrahydro-4-phenylpyridine hydrochloride | 5 g | Cl.C1(=CC=CC=C1)C=1CCNCC1
reactant | potassium carbonate | 8.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 4-(4-phenyl-3,6-dihydro-2H-pyridin-1-yl)nitrobenzene | C1(=CC=CC=C1)C=1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H16N2O2
